US04739050
3,4-Dihydro-2-hydroxy-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 11)
2-Chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (0.1 g, compound No. 2) is dissolved in a mixture of tetrahydrofuran (2 ml) and water (1 ml), and the solution is standed overnight at room temperature. The mixture is poured into a mixture of ethyl acetate and water. The organic layer is dried over anhydrous sodium sulfate, and concentrated in vacuo to give 0.1 g (quant. yield) of the titled compound as amorphous powder.

reactant | 2-Chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | ClC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C15H12ClNO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 3,4-Dihydro-2-hydroxy-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | 0.1 g, quant. yield | OC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C15H13NO3S
